US05059615
660 mg (0.022 mol) of (80% in oil) sodium hydride are suspended in 30 ml of abs. DMSO under argon. 4.8 g (0.022 mol) of trimethylsulphoxonium iodide (EGA) are added at RT and the mixture is stirred until evolution of hydrogen has ended. 3.4 g (20 mmol) of 1-benzoyl-1-cyanocyclopropane in 10 ml of abs. DMSO are then added rapidly. The mixture is stirred for 2 h at 40° C. and 2 g (30 mmol) of sublimed 1,2,4-triazole and 908 mg (10 mmol) of 1,2,4-triazole-Na salt (EGA) are then added. The mixture is stirred for 2 h at 50° C. and for 4 h at 80° C., cooled, stirred into ice-water and extracted with chloroform. The organic phase is washed with 2N NaOH, dried (Na2SO4) and concentrated. The residue is chromatographed on silica gel using ethyl acetate and the product is recrystallized from dichloromethane/petroleum ether. 2 g (40% of theory) of 1-(1-cyanocyclopropyl)-1-phenyl-2-(1,2,4-triazol-1-yl)ethanol having a melting point of 103°-105° C. are obtained as colorless crystals,

reactant | sodium hydride | [H-].[Na+]
reactant | trimethylsulphoxonium iodide | 0.022 mol, 4.8 g | [I-].C[S+](=O)(C)C
reactant | hydrogen | [H][H] | H2
reactant | 1-benzoyl-1-cyanocyclopropane | 20 mmol, 3.4 g | C(C1=CC=CC=C1)(=O)C1(CC1)C#N | C11H9NO
reactant | 1,2,4-triazole | 30 mmol, 2 g | N1N=CN=C1 | C2H3N3
solvent | DMSO | CS(=O)C | C2H6OS
product | 1-(1-cyanocyclopropyl)-1-phenyl-2-(1,2,4-triazol-1-yl)ethanol | 2 g, 40% | C(#N)C1(CC1)C(CN1N=CN=C1)(O)C1=CC=CC=C1 | C14H14N4O
